US06093732
N-[(4-Chlorophenyl)methyl]-8-fluoro-4-hydroxy-6-iodo-3-quinolinecarboxamide
A mixture of 11.85 g of 2-fluoro-4-iodoaniline and 10.81 g of diethylethoxymethylene malonate is heated to 130° C. in a flask equipped with a Dean-Stark trap to collect formed ethanol. The mixture is then cooled to 75° C. and diluted with hexanes. The resulting solid is collected and dried. The solid is then dissolved in 60 mL diphenyl ether and heated to 250° C. for 3 h in a flask equipped with a Dean-Stark trap to collect the ethanol. The solution is allowed to cool to room temperature and the resulting solid is collected and dried to yield 11.73 g. This material(0.55 g) and 3 mL of 4-chlorobenzylamine are heated at 180° C. for 1 h. The reaction is cooled and poured into 75 mL diethyl ether. The resulting solid is filtered and recrystallized from ethyl acetate/hexanes to give the title compound as an off-white solid (0.45 g).

reactant | 2-fluoro-4-iodoaniline | 11.85 g | FC1=C(N)C=CC(=C1)I | C6H5FIN
reactant | diethylethoxymethylene malonate | 10.81 g | C1(CC(=O)OC(OC(C)(CC)CC)O1)=O | C10H16O5
reactant | 4-chlorobenzylamine | 3 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | diethyl ether | 75 mL | C(C)OCC | C4H10O
product | N-[(4-Chlorophenyl)methyl]-8-fluoro-4-hydroxy-6-iodo-3-quinolinecarboxamide | 0.45 g | ClC1=CC=C(C=C1)CNC(=O)C=1C=NC2=C(C=C(C=C2C1O)I)F | C17H11ClFIN2O2
